US07563805B2
(3R,4S)-3-Ethoxycarbonyl-4-fluoromethyl-3-methyl-1-[(1R)-1-phenylethyl]-2-pyrrolidone
To a solution of (3S,4S)-3-ethoxycarbonyl-4-fluoromethyl-1-[(1R)-1-phenylethyl]-2-pyrrolidone (8.30 g, 28.3 mmol) and iodomethane (2.47 mL, 39.6 mmol) in tetrahydrofuran (170 mL), potassium bistrimethylsilyl amide (67.9 mL, 34.0 mmol, 0.5M solution in toluene) was added at −78° C., and the mixture was stirred at the same temperature for 10 minutes. While stirring, the temperature was gradually increased to −10° C. in 30 minutes. Saturated aqueous solution of ammonium chloride (200 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (200 mL×2), and the organic layer was washed with saturated aqueous solution of sodium chloride (150 mL) and dried with anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (elusion by hexane:ethyl acetate, 7:1→1:1) to obtain 7.91 g (91%) of the title compound as a pale yellow oily substance.

reactant | (3S,4S)-3-ethoxycarbonyl-4-fluoromethyl-1-[(1R)-1-phenylethyl]-2-pyrrolidone | 28.3 mmol, 8.30 g | C(C)OC(=O)[C@@H]1C(N(C[C@H]1CF)[C@H](C)C1=CC=CC=C1)=O | C16H20FNO3
reactant | iodomethane | 39.6 mmol, 2.47 mL | IC | CH3I
reactant | potassium bistrimethylsilyl amide | 34.0 mmol, 0.5M, 67.9 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 170 mL | O1CCCC1 | C4H8O
product | (3R,4S)-3-Ethoxycarbonyl-4-fluoromethyl-3-methyl-1-[(1R)-1-phenylethyl]-2-pyrrolidone | 7.91 g, 91% | C(C)OC(=O)[C@]1(C(N(C[C@H]1CF)[C@H](C)C1=CC=CC=C1)=O)C | C17H22FNO3
